US06812227B2
A 450 mg (1.007 mmol) portion of ′N-(tert-butoxy)-2-({[4-(2-butynyloxy)phenyl]sulfonyl}amino)-2-(4-hydroxyphenyl)acetamide was stirred in neat TFA at room temperature for 72 h. TFA was removed in vacuo. The residue was chromatographed on preparative TLC, eluting with 1% HOAc and 10% MeOH in dichloromethane to provide 33.8 mg (9%) of 2-({[4-(2-butynyloxy)phenyl]-sulfonyl}amino)-N-hydroxy-2-(4-hydroxyphenyl)acetamide as a white solid. Electrospray Mass Spec 391.4 (M+H)+

reactant | N-(tert-butoxy)-2-({[4-(2-butynyloxy)phenyl]sulfonyl}amino)-2-(4-hydroxyphenyl)acetamide | C(C)(C)(C)ONC(C(C1=CC=C(C=C1)O)NS(=O)(=O)C1=CC=C(C=C1)OCC#CC)=O | C22H26N2O6S
solvent | TFA | C(=O)(C(F)(F)F)O | C2HF3O2
product | 2-({[4-(2-butynyloxy)phenyl]-sulfonyl}amino)-N-hydroxy-2-(4-hydroxyphenyl)acetamide | 33.8 mg, 9% | C(C#CC)OC1=CC=C(C=C1)S(=O)(=O)NC(C(=O)NO)C1=CC=C(C=C1)O | C18H18N2O6S
